US06235750B1
D. 6-[4-(Piperidin-4-yl)-phenyl]-pyridin-2-ylamine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 100 mg (0.302 mmol) 4-(4-(2-(2,5-dimethylpyrrolyl)pyrid-6-yl)phenyl)piperidine, 10 mL ethanol, 1 mL water, and 417 mg (6.04 mmol) hydroxylamine hydrochloride. The reaction was refluxed 20 hours cooled, and poured into dilute aqueous hydrochloric acid, then washed with ethyl acetate. The aqueous layer was adjusted to pH 10 with 6 N sodium hydroxide solution and extracted twice with ethyl acetate. The combined organic layer was washed with brine, dried over sodium sulfate, and evaporated. The resulting oil (77 mg, 100%) was converted to the hydrochloride salt using HCl in, ether to afford a tan solid, 32 mg (32%), mp dec. above 150° C.

reactant | 4-(4-(2-(2,5-dimethylpyrrolyl)pyrid-6-yl)phenyl)piperidine | 0.302 mmol, 100 mg | CC=1NC(=CC1C1=NC(=CC=C1)C1=CC=C(C=C1)C1CCNCC1)C | C22H25N3
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | hydroxylamine hydrochloride | 6.04 mmol, 417 mg | Cl.NO
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 6-[4-(Piperidin-4-yl)-phenyl]-pyridin-2-ylamine | N1CCC(CC1)C1=CC=C(C=C1)C1=CC=CC(=N1)N | C16H19N3
